### PR TITLE
[Merged by Bors] - refactor(Topology/Irreducible): weaken assumptions of `preimage_mem_irreducibleComponents_of_isPreirreducible_fiber`

### PR DESCRIPTION
**Pull request by tb65536**
This PR weakens the surjectivity assumption of `preimage_mem_irreducibleComponents_of_isPreirreducible_fiber` to `(t ∩ Set.range f).Nonempty`. I also took the liberty of systematizing the file slightly, so that now there are 6 lemmas: preimage of (preirreducible / irreducible / irreducible component) assuming (preirreducible fibers / open embedding).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Irreducible.lean [hunk 1]
```diff
@@ -371,27 +362,45 @@ lemma IsPreirreducible.preimage_of_isPreirreducible_fiber
...
+  exact ⟨x, hx⟩
+
+lemma IsIrreducible.preimage (ht : IsIrreducible t) {f : Y → X}
+    (hf : IsOpenEmbedding f) (h : (t ∩ Set.range f).Nonempty) : IsIrreducible (f ⁻¹' t) := by
+  refine ht.preimage_of_isPreirreducible_fiber f hf.isOpenMap
+    (fun _ ↦ (subsingleton_singleton.preimage hf.injective).isPreirreducible) h
+
+lemma preimage_mem_irreducibleComponents_of_isPreirreducible_fiber
+    (ht : t ∈ irreducibleComponents X) {f : Y → X} (hf₀ : Continuous f) (hf : IsOpenMap f)
+    (hf' : ∀ x, IsPreirreducible (f ⁻¹'{x})) (h : (t ∩ Set.range f).Nonempty) :
```
Comment (robin-carlier) [inline Mathlib/Topology/Irreducible.lean]: Nitpickiest nit: Is it possible to be consistent in the naming scheme for hyps between this and `image_mem_irreducibleComponents_of_isPreirreducible_fiber`? So
```suggestion
    (ht : t ∈ irreducibleComponents X) {f : Y → X} (hf₁ : Continuous f) (hf₂ : IsOpenMap f)
    (hf₃ : ∀ x, IsPreirreducible (f ⁻¹'{x})) (h : (t ∩ Set.range f).Nonempty) :
```
?
This also applies to `IsIrreducible.preimage_of_isPreirreducible_fiber` above

**Review by robin-carlier — COMMENTED** [review]
Very minor nitpick but otherwise LGTM

**Review by robin-carlier — COMMENTED** [review]
Thanks!
maintainer merge
